US07872009B2
Step 5: 6-(2-Fluorophenyl)-3-methyl-5-oxo-1,2,3,5-tetrahydroindolizine-8-carboxylic acid
To a microwave tube was added methyl-3-methyl-5-oxo-6-(trifluoromethylsulfonyloxy)-1,2,3,5-tetrahydroindolizine-8-carboxylate (94 mg, 0.26 mmol), 2-fluorophenylboronic acid (37 mg, 0.26 mmol, Aldrich), and 2 M sodium carbonate (0.65 mL, 1.30 mmol). To this was added 4 mL of toluene, 0.25 mL of EtOH, and Pd(PPh3)4 (20 mg, 0.17 mmol, Aldrich). The tube was sealed and treated in Emry's optimizer for 15 min at 160° C. The aqueous phase was separated and acidified to pH 2 with 2 N HCl and extracted with EtOAc (3×). The combined EtOAc layers were washed with brine, dried over MgSO4, and concentrated in vacuo to give 40 mg (53%) of the title compound as a light brown residue. MS m/z: 288.1(M+1).

reactant | methyl-3-methyl-5-oxo-6-(trifluoromethylsulfonyloxy)-1,2,3,5-tetrahydroindolizine-8-carboxylate | 0.26 mmol, 94 mg | COC(=O)C=1C=C(C(N2C(CCC12)C)=O)OS(=O)(=O)C(F)(F)F | C12H12F3NO6S
reactant | 2-fluorophenylboronic acid | 0.26 mmol, 37 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 1.30 mmol, 2 M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.17 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 0.25 mL | CCO | C2H6O
product | 6-(2-Fluorophenyl)-3-methyl-5-oxo-1,2,3,5-tetrahydroindolizine-8-carboxylic acid | 40 mg, 53% | FC1=C(C=CC=C1)C=1C(N2C(CCC2=C(C1)C(=O)O)C)=O | C16H14FNO3
